US06395759B1
(±)-2-[3-(4-tert-Butyl-2-methoxy-benzoylamino)-phenyl]-1-(tert-butyloxycarbonyl)-pyrrolidine
To a solution of 4-tert-butyl-2-methoxy-benzoic acid (0.05 g) in DMF (1.5 mL) at room temperature, was added in order, 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.046 g), 1-hydroxy-benzotriazole (0.033 g) and 15 min. later, (±)-2-(3-aminophenyl)-1-(tert-butyloxycarbonyl)-pyrrolidine (0.05 g). The reaction mixture was allowed to stir for 17 h and then poured into water. The aqueous mixture was extracted with ethyl acetate twice. The combined organic layer was washed with brine, dried (sodium sulfate) and evaporated in vacuo to afford an amber oil. Suction silica gel chromatography eluting with ethyl acetate in hexane (from 30% to 100%, in 10% increments) gave desired product as an amber solid (0.03 g).

reactant | 4-tert-butyl-2-methoxy-benzoic acid | 0.05 g | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)OC | C12H16O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.046 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-benzotriazole | 0.033 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (±)-2-(3-aminophenyl)-1-(tert-butyloxycarbonyl)-pyrrolidine | 0.05 g | NC=1C=C(C=CC1)C1N(CCC1)C(=O)OC(C)(C)C | C15H22N2O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (±)-2-[3-(4-tert-Butyl-2-methoxy-benzoylamino)-phenyl]-1-(tert-butyloxycarbonyl)-pyrrolidine | 0.03 g | C(C)(C)(C)C1=CC(=C(C(=O)NC=2C=C(C=CC2)C2N(CCC2)C(=O)OC(C)(C)C)C=C1)OC | C27H36N2O4
